US05153337
1-Trimethylsilyloxy-3-methyl-1,3-butadiene
To a suspension of 180 g of anhydrous sodium iodide in 300 ml of dry acetonitrile is added a solution of 112 g of triethylamine and 84 g of 3-methyl-2-butenal in 400 ml of pentane at room temperature. Added dropwise to the above solution is 109 g of chlorotrimethylsilane at 35°-38° C. and the mixture stirred for 4 hours at 40°-45° C. The resulting solid is filtered, washed with 400 ml of pentane and the solvent evaporated to a residue. The residue is distilled to afford 112 g of the desired product, B.P. 56°-60° C./35 mm, nD20 1.4496.

reactant | sodium iodide | 180 g | [I-].[Na+]
reactant | triethylamine | 112 g | C(C)N(CC)CC | C6H15N
reactant | 3-methyl-2-butenal | 84 g | CC(=CC=O)C | C5H8O
reactant | chlorotrimethylsilane | 109 g | Cl[Si](C)(C)C | C3H9ClSi
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
solvent | pentane | 400 ml | CCCCC | C5H12
product | 1-Trimethylsilyloxy-3-methyl-1,3-butadiene | 112 g | C[Si](OC=CC(=C)C)(C)C | C8H16OSi
